US08084620B2
Step 3 A solution of racemic (3-(benzyloxycarbonylamino)-4-(3-bromo-2-methylphenylamino)-4-oxobutyl)dimethylsulfonium iodide (1.96 g, 3.30 mmol) in anhydrous DMSO (33 mL) was stirred at rt and treated with cesium carbonate (2.69 g, 8.26 mmol) in 3 portions over 25 min. After 4.5 h, the mixture was diluted with EtOAc, washed three times with water and twice with brine, dried and concentrated to provide racemic benzyl 1-(3-bromo-2-methylphenyl)-2-oxopyrrolidin-3-ylcarbamate as a tan solid (1.248 g, 94%). 1H NMR (400 MHz, chloroform-d) δ 7.52-7.58 (1H, m), 7.30-7.40 (5H, m), 7.10 (2H, d, J=5.1 Hz), 5.47 (1H, br. s.), 5.15 (2H, s), 4.39 (1H, ddd, J=10.6, 8.3, 5.2 Hz), 3.72 (1H, td, J=9.9, 6.4 Hz), 3.60 (1H, t, J=9.4 Hz), 2.27 (3H, s), 2.11-2.26 (2H, m). Mass spectrum m/z 425, 427 (M+Na)+.

reactant | racemic (3-(benzyloxycarbonylamino)-4-(3-bromo-2-methylphenylamino)-4-oxobutyl)dimethylsulfonium iodide | 3.30 mmol, 1.96 g | [I-].C(C1=CC=CC=C1)OC(=O)NC(CC[S+](C)C)C(=O)NC1=C(C(=CC=C1)Br)C
reactant | cesium carbonate | 8.26 mmol, 2.69 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 33 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | racemic benzyl 1-(3-bromo-2-methylphenyl)-2-oxopyrrolidin-3-ylcarbamate | 1.248 g, 94% | BrC=1C(=C(C=CC1)N1C(C(CC1)NC(OCC1=CC=CC=C1)=O)=O)C | C19H19BrN2O3
